US07446118B2
To a 0° C. solution of [3-(1-Methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-carbamic acid tert-butyl ester LXXVI (56 mg, 0.127 mmol) in DCM (3 ml) was added triethylsilane (300 μl) and TFA (1.5 ml). The resulting mixture was stirred at 0° C. for 5 minutes and at room temperature for 40 minutes. The mixture was concentrated, and the residue was partitioned between a saturated solution of NaHCO3 and EtOAc. The combined organic layers were dried over Na2SO4, filtered, concentrated, and purified via flash chromatography (DCM/MeOH/NH4OH) affording [3-(1-Methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-amine LXXVIII as a white solid (31 mg, 71% yield). The amine LXXVIII (31 mg, 71% yield) was dissolved in Et2O (3 ml) and HCl (1M in Et2O, 95 μl) was added. The precipitate was filtered, washed with Et2O and dried in vacuo to afford the hydrochloride as a white powder (33 mg, 96% yield). MS (M+H)=343

reactant | [3-(1-Methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCC(C1=CC=CC=C1)C=1C=C2C=CN(C2=CC1)S(=O)(=O)C)=O | C24H30N2O4S
reactant | triethylsilane | 300 μl | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | [3-(1-Methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-amine | 71% yield | CS(=O)(=O)N1C=CC2=CC(=CC=C12)C(CCNC)C1=CC=CC=C1 | C19H22N2O2S
